US09233920B2
Alternatively, to a solution of 1-[3,5-bis(trifluoromethyl)phenyl]-3-[(S)-(6-methoxy-4-quinolyl)-[(2S)-quinuclidin-2-yl]methyl]urea; prop-1-ene (09 mg, prepared according to the literature: Organic Letters 2007, 9, (14), 2621-2624) and nitromethane (0.6 ml) under argon, was added 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (100 mg). The solution was heated for 3 days at 50° C. then allowed to stand at room temperature for 2 days. Water was then added and the resulting mixture was extracted with diethyl ether and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (100 mg). Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol=90:10, 1 ml/min, retention time 6.43 minutes (major enantiomer), 7.78 minutes (minor enantiomer) indicated that the reaction proceeded with 95% enantioselectivity in favor of the R enantiomer.

reactant | 1-[3,5-bis(trifluoromethyl)phenyl]-3-[(S)-(6-methoxy-4-quinolyl)-[(2S)-quinuclidin-2-yl]methyl]urea | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N[C@H]([C@H]1N2CCC(C1)CC2)C2=CC=NC1=CC=C(C=C21)OC)(F)F | C27H26F6N4O2
reactant | prop-1-ene | C=CC | C3H6
reactant | nitromethane | 0.6 ml | [N+](=O)([O-])C | CH3NO2
reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
solvent | Water | O | H2O
product | 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
